US04710573
To a stirred mixture of cyanogen bromide (1.8 g, 0.017 mol), sodium bicarbonate (2.80 g) and dimethyl sulfoxide (DMSO) (40 ml) was added dropwise 6-chloro-3-(4-piperidinyl)-1H-indazole (4.0 g, 0.017 mol) of Example 52 dissolved in DMSO (50 ml). The reaction was stirred at ambient temperature for 1 hour and poured into water. The resulting solid was collected, dried and weighed 4.0 g. Recrystallization from toluene-hexane afforded 3.1 g (70%) of 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carbonitrile, m.p. 180°-188° C. To a stirred mixture of 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carbonitrile (3.0 g., 0.015 mol) in methanol (30 ml) was added a solution of 25% sodium methoxide in methanol (2.5 ml). The reaction was warmed on a steam bath to effect solution and then stirred at ambient temperature for 16 hours. Most of the methanol was removed in vacuo and the residue was diluted with water. An initial oil solidified and 3.5 g of a solid was collected. This was recrystallized from methanol-water to yield 2.9 g (66%) of 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carboximidic acid methyl ester, mp 173°-175° C.

reactant | 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carbonitrile | 0.015 mol, 3.0 g | ClC1=CC=C2C(=NNC2=C1)C1CCN(CC1)C#N | C13H13ClN4
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
product | 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carboximidic acid methyl ester | 2.9 g, 66% | COC(=N)N1CCC(CC1)C1=NNC2=CC(=CC=C12)Cl | C14H17ClN4O
